US04625032
65 mg of (3S)-6-fluoro-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid are dissolved in a mixture of one ml of dimethylsulfoxide and 0.5 ml of water. 0.02 ml of carbon disulfide and 0.093 ml of triethylamine are added to the mixture, and the mixture is stirred at room temperature for 20 minutes. 0.021 ml of methyl iodide is added to the mixture, and the mixture is stirred at room temperature for 16 hours. Water is added to the mixture, and the aqueous solution is acidified with 10% HCl and extracted with ethyl acetate. The extract is washed with water, dried and then evaporated to remove the solvent. The residue is purified by silica gel thin layer chromatography (Solvent; chloroform:methanol:acetic acid=93:6:1). 37 mg of (3S)-6-fluoro-2-(methylthio)thiocarbonyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid are obtained as pale yellow powder.

reactant | (3S)-6-fluoro-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 65 mg | FC=1C=C2C=3C[C@H](NCC3NC2=CC1)C(=O)O | C12H11FN2O2
reactant | carbon disulfide | 0.02 ml | C(=S)=S | CS2
reactant | methyl iodide | 0.021 ml | CI | CH3I
reactant | HCl | Cl | ClH
solvent | dimethylsulfoxide | one ml | CS(=O)C | C2H6OS
solvent | water | 0.5 ml | O | H2O
solvent | triethylamine | 0.093 ml | C(C)N(CC)CC | C6H15N
product | (3S)-6-fluoro-2-(methylthio)thiocarbonyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 37 mg | FC=1C=C2C=3C[C@H](N(CC3NC2=CC1)C(=S)SC)C(=O)O | C14H13FN2O2S2
